US06441015B2
5-(4-Amino-2,6-dimethyl-phenoxy)-N-cyclobutyl-2-hydroxy-N-methyl-benzamide was prepared from N-cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-hydroxy-N-methyl-benzamide according to a procedure analogous to that described in EXAMPLE 4, Step A. Methanol was used instead of ethanol as a co-solvent. The reaction mixture was hydrogenated for 2 hours. Then, the mixture was filtered through Celite® and concentrated, and the title product of Step F was used in the next step without purification. MS (APCI+) Calc.: 340.4, Found: 341.1 (M+1).

reactant | N-cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-hydroxy-N-methyl-benzamide | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O)=O)C | C20H22N2O5
solvent | Methanol | CO | CH4O
product | 5-(4-Amino-2,6-dimethyl-phenoxy)-N-cyclobutyl-2-hydroxy-N-methyl-benzamide | NC1=CC(=C(OC=2C=CC(=C(C(=O)N(C)C3CCC3)C2)O)C(=C1)C)C | C20H24N2O3
